US09340547B2
a) (S)-tert-Butyl 1-(2-(isoxazol-3-yl carbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate
Same procedure as described in preparation 133a was used from (S)-methyl 1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate (854 mg, 2.17 mmols) and isoxazol-3-amine (0.48 ml, 6.50 mmols). The title compound was obtained (919 mg, 55% purity, 64%).

reactant | (S)-methyl 1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate | 2.17 mmols, 854 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)NN1C(=CC=C1)C(=O)OC)C | C14H21N3O5
reactant | isoxazol-3-amine | 6.50 mmols, 0.48 ml | O1N=C(C=C1)N | C3H4N2O
product | (S)-tert-Butyl 1-(2-(isoxazol-3-yl carbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate | O1N=C(C=C1)NC(=O)C=1N(C=CC1)NC([C@H](C)NC(OC(C)(C)C)=O)=O | C16H21N5O5
